US08865712B2
b) 2-Bromo-5-fluoro-4-isopropenyl-pyridine
To a solution of 2-(2-bromo-5-fluoro-pyridin-4-yl)-propan-2-ol (24.7 g, 106 mmol) and methanesulfonic anhydride (55.1 g, 317 mmol) in DCM (250 ml) was added triethylamine (58.8 ml, 42.7 g, 422 mmol). The reaction mixture was stirred at rt for 20 h. Another 1 eq. (18 g) of methanesulfonic anhydride and 1.2 eq. (17 ml) of triethylamine were added and the reaction mixture was stirred an additional 20 h at rt. The reaction mixture was quenched with 1M aq. Na2CO3 sol. and diluted with DCM. The phases were separated and the aq. phase was reextracted twice with DCM. The combined org. phases were washed with brine, dried over Na2SO4, filtered and concentrated. Flash chromatography on silica gel (hexane:EtOAc 8:1) yielded the title compound as a clear colourless liquid. HPLC RtH4=1.12 min; ESIMS: 216, 218 [(M+H)+]; 1H NMR (400 MHz, CDCl3): δ 8.20 (d, 1H), 7.40 (d, 1H), 5.48-5.44 (m, 2H), 2.14 (s, 3H).

reactant | 2-(2-bromo-5-fluoro-pyridin-4-yl)-propan-2-ol | 106 mmol, 24.7 g | BrC1=NC=C(C(=C1)C(C)(C)O)F | C8H9BrFNO
reactant | methanesulfonic anhydride | 317 mmol, 55.1 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | triethylamine | 422 mmol, 58.8 ml, 42.7 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic anhydride | 18 g, 1 eq. | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | triethylamine | 17 ml, 1.2 eq. | C(C)N(CC)CC | C6H15N
solvent | DCM | 250 ml | C(Cl)Cl | CH2Cl2
product | 2-Bromo-5-fluoro-4-isopropenyl-pyridine | BrC1=NC=C(C(=C1)C(=C)C)F | C8H7BrFN
